US04788199
Diisopropylamine (2.96 cc) is added to dry tetrahydrofuran (30 cc) placed under an atmosphere of nitrogen. The solution is stirred and cooled to -70° C. A 1.6 M solution (11.3 cc) of butyllithium in hexane is then introduced in the course of 15 minutes, and then, after stabilization of the temperature at -70° C., a solution of ethyl 2-phenyl-4-quinolinebutanoate (3.8 g) in tetrahydrofuran (30 cc) is introduced in the course of 5 minutes. The mixture is stirred for 30 minutes at -70° C. and ethyl iodide (1.15 cc) and hexamethylphosphoramide (0.8 cc) in tetrahydrofuran (20 cc) are introduced in the course of 5 minutes. The mixture is stirred for 7 hours at -70° C. Ethanol (7 cc) is added followed by acetic acid (2 cc). The temperature is allowed to rise to room temperature (approximately 20° C.), and the reaction medium is diluted with water (300 cc) and extracted with ethyl ether (2×100 cc). The ether phase is washed with water, dried over magnesium sulphate and evaporated under reduced pressure. The residue is chromatographed on silica gel using a cyclohexane/ethyl acetate (90:10 by volume) mixture. Ethyl α-ethyl-2-phenyl-4-quinolinebutanoate (1.8 g), m.p. 76° C., is thereby isolated.

reactant | Diisopropylamine | 2.96 cc | C(C)(C)NC(C)C | C6H15N
reactant | butyllithium | C(CCC)[Li]
reactant | ethyl 2-phenyl-4-quinolinebutanoate | 3.8 g | C1(=CC=CC=C1)C1=NC2=CC=CC=C2C(=C1)CCCC(=O)OCC | C21H21NO2
reactant | ethyl iodide | 1.15 cc | C(C)I | C2H5I
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
solvent | water | 300 cc | O | H2O
solvent | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
solvent | acetic acid | 2 cc | C(C)(=O)O | C2H4O2
solvent | Ethanol | 7 cc | C(C)O | C2H6O
solvent | hexamethylphosphoramide | 0.8 cc | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | Ethyl α-ethyl-2-phenyl-4-quinolinebutanoate | 1.8 g | C(C)C(C(=O)OCC)CCC1=CC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C23H25NO2
